US09212172B2
Bazedoxifene hydrochloride (5 g), dichloromethane (75 mL), and water (50 mL) are mixed and triethylamine (4 mL) is slowly added to obtain a pH range of 9.5-10.5 of the aqueous phase. The layers are separated and the aqueous layer is extracted with dichloromethane (2×25 mL). The organic layers are combined followed by addition of water (50 mL), at which point pH of the aqueous phase is about 10.4. To this mixture, a solution of 5% acetic acid (75 mL) is slowly added until the pH is about 9, at which point a crystalline solid forms. The solid is collected by filtration, washed with dichloromethane (25 mL), and dried under vacuum at 50° C. to afford crystalline bazedoxifene free base in 73.27% yield (HPLC purity 99.67%).

reactant | Bazedoxifene hydrochloride | 5 g | CC1=C(N(C2=C1C=C(C=C2)O)CC3=CC=C(C=C3)OCCN4CCCCCC4)C5=CC=C(C=C5)O.Cl
reactant | dichloromethane | 75 mL | ClCCl | CH2Cl2
reactant | water | 50 mL | O | H2O
solvent | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
product | bazedoxifene | 73.27% yield | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O | C30H34N2O3
